US04367238
A solution of 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]valeric acid (3.8 g) in acetic anhydride (10 ml) and hydriodic acid (55-58%, 20 ml) were treated in a similar manner to that of Example 14-(8) to give 3-n-propyl-7-(2-chlorophenoxy)-2,3-dihydrobenzofuran-2-one (1.5 g). mp 51°-53° C.

reactant | 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]valeric acid | 3.8 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)C(C(=O)O)CCC | C18H19ClO4
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydriodic acid | 20 ml | I | HI
product | 3-n-propyl-7-(2-chlorophenoxy)-2,3-dihydrobenzofuran-2-one | 1.5 g | C(CC)C1C(OC2=C1C=CC=C2OC2=C(C=CC=C2)Cl)=O | C17H15ClO3
